US09428483B2
Synthesis of (1S,2S,3S,5R,6S)-2-amino-6-((1-(((cyclohexyloxy)carbonyl)oxy)ethoxy)carbonyl)-3-fluorobicyclo[3.1.0]hexane-2-carboxylic acid (A-10)
(1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid (A-1-2, 1.35 g) and 1-chloroethyl cyclohexyl carbonate (2.06 mL) were treated in the same manner as in Example A-1 (3) and (4) to give the title compound (A-10, 113 mg) as a colorless solid.

reactant | (1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid | 1.35 g | C(C=C)OC(=O)N1COC([C@]12[C@@H]1[C@H]([C@@H]1C[C@@H]2F)C(=O)O)=O | C13H14FNO6
reactant | 1-chloroethyl cyclohexyl carbonate | 2.06 mL | C(OC(C)Cl)(OC1CCCCC1)=O | C9H15ClO3
product | (1S,2S,3S,5R,6S)-2-amino-6-((1-(((cyclohexyloxy)carbonyl)oxy)ethoxy)carbonyl)-3-fluorobicyclo[3.1.0]hexane-2-carboxylic acid | 113 mg | N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)OC(C)OC(=O)OC1CCCCC1)C(=O)O | C17H24FNO7
